US06962914B2
To a suspension of N-cyclopentylguanidine hydrochloride (2.20 g, 13.5 mmol) in ethanol (70 mL) was added sodium ethoxide (4.5 mL, 3 M in ethanol, 14 mmol). The mixture was stirred at room temperature for 30 minutes, then cooled to 0° C. To this mixture was added 1-[2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one (3.44 g, 10.4 mmol) portionwise. The reaction mixture was stirred at 0° C. for 30 minutes, followed by room temperature for 15 hours. The reaction mixture was diluted with water (400 mL). The solid precipitate was collected on a filter to provide N-cyclopentyl-4-[2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine (4.48 g, 98%) as an orange solid. 1H NMR (400 MHz, CDCl3) δ 8.84 (s, 1 H), 8.51 (d, 1 H), 8.11 (d, 1 H), 7.64 (dd, 2 H), 7.44 (dd, 1 H), 7.17 (t, 2 H), 6.33 (d, 1 H), 5.17 (d, 1 H), 4.34 (m, 1 H), 2.15-2.06 (m, 2 H), 1.84-1.52 (m, 6 H); 19F NMR (CDCl3): δ −62.70, −112.25 MS m/z 442 (M+1); mp 155-156° C.

reactant | N-cyclopentylguanidine hydrochloride | 13.5 mmol, 2.20 g | Cl.C1(CCCC1)NC(=N)N
reactant | sodium ethoxide | 14 mmol, 3 M, 4.5 mL | [O-]CC.[Na+]
reactant | 1-[2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one | 10.4 mmol, 3.44 g | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C(C#C)=O | C17H8F4N2O
solvent | ethanol | 70 mL | C(C)O | C2H6O
solvent | water | 400 mL | O | H2O
product | N-cyclopentyl-4-[2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine | 4.48 g, 98% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)C(F)(F)F)C2=CC=C(C=C2)F | C23H19F4N5
